US04997967
315 g (1 mol) of N-(4-phenoxy-2,6-diisopropylphenyl)thiourea are suspended in 800 ml of o-xylene, and the suspension is heated for 5 hours to reflux temperature, whereupon the temperature of the reaction mixture rises to ca. 150° C. The reaction mixture is then cooled, the solvent is removed by vacuum distillation, and the crude product is purified by distillation under a high vacuum, giving 278 g (93% of theory) of 4-phenoxy-2,6-diisopropylphenylisothiocyanate as a pale yellow oil with a boiling point of 130°-140° C./0.05 mbar.

reactant | N-(4-phenoxy-2,6-diisopropylphenyl)thiourea | 1 mol, 315 g | O(C1=CC=CC=C1)C1=CC(=C(C(=C1)C(C)C)NC(=S)N)C(C)C | C19H24N2OS
solvent | o-xylene | 800 ml | CC=1C=CC=CC1C | C8H10
product | 4-phenoxy-2,6-diisopropylphenylisothiocyanate | 278 g, 93% | O(C1=CC=CC=C1)C1=CC(=C(C(=C1)C(C)C)N=C=S)C(C)C | C19H21NOS
